US06005087
N2 -Isobutyryl-2'-O-octadecylguanosine
2'-O-Octadecylguanosine (1.9 g) in pyridine (150 ml) was cooled in an ice bath, and treated with trimethylsilyl chloride (2 g, 5 eq) and isobutyryl chloride (2 g, 5 eq). The reaction mixture was stirred for 4 hours, during which time it was allowed to warm to room temperature. The solution was cooled, water added (10 mL) and stirred for an additional 30 minutes. Concentrated ammonium hydroxide (10 mL) was added and the solution concentrated in vacuo. The residue was purified by silica gel chromatography (eluted with 3% MeOH/EtOAc) to yield 1.2 g of product.

reactant | 2'-O-Octadecylguanosine | 1.9 g | C(CCCCCCCCCCCCCCCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(=O)NC(N)=NC12 | C28H49N5O5
reactant | trimethylsilyl chloride | 2 g, 5 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | isobutyryl chloride | 2 g, 5 eq | C(C(C)C)(=O)Cl | C4H7ClO
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N2 Isobutyryl-2'-O-octadecylguanosine | 1.2 g | N#N.C(C(C)C)(=O)[C@@]1([C@H](OCCCCCCCCCCCCCCCCCC)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | InChI=1S/C32H55N5O6.N2/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-42-28-26(39)24(21-38)43-32(28,27(40)23(2)3)37-22-34-25-29(37)35-31(33)36-30(25)41;1-2/h22-24,26,28,38-39H,4-21H2,1-3H3,(H3,33,35,36,41);/t24-,26-,28-,32-;/m1./s1
